US05114944
N-Methyl-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetamide
A stirred slurry of 3.2 g (0.010 mole) of 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine (prepared from 2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetic acid and 1,1'-carbonyldiimidazole) in 20 ml of dry tetrahydrofuran was treated with 3 ml of monomethylamine in 10 ml of dry tetrahydrofuran added dropwise from a needle and syringe. After stirring for 36 hours the reaction mixture was diluted with 100 ml of water and the resulting solid collected by filtration (1.7 g). The crude product was recrystallized from acetonitrile to yield 1.1 g (38.9%) of beige crystals, mp 207°-208° C.

reactant | 3-[2-(1H-imidazole-1-yl)-2-oxoethyl]-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine | 0.010 mole, 3.2 g | N1(C=NC=C1)C(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O | C18H15N5O
reactant | monomethylamine | 3 ml | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | N-Methyl-2-(4-methylphenyl)pyrazolo[1,5-a]pyrimidine-3-acetamide | 1.1 g, 38.9% | CNC(CC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)C)=O | C16H16N4O
